US04476308
2.97 g of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide are dissolved in 10 ml of ethanol. Thereto there are added 1.26 ml of a 7.93N solution of hydrogen chloride in ethanol. Thereupon, the mixture is evaporated and the residue is dried in a high vacuum. There is obtained (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide hydrochloride which has a decomposition point of 97°. The microanalysis shows the following values:

reactant | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | 2.97 g | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide hydrochloride | Cl.C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | InChI=1S/C15H27N3O3.ClH/c1-11-4-3-5-12(2)18(11)9-7-16-14(20)10-17-8-6-13(19)15(17)21;/h11-13,19H,3-10H2,1-2H3,(H,16,20);1H/t11-,12+,13?;
